US08461175B2
[5-(2,6-difluorophenyl)-7-(fluoromethyl)-N-[1-(methylsulphonyl)piperidin-4-yl]-1H-pyrazolo[4,3-c]isoquinolin-3-amine
A 30 ml round-bottomed flask equipped with a magnetic stirrer and with a septum having a top-mounted argon intake is charged with 87 mg of [5-(2,6-difluorophenyl)-7-(fluoromethyl)-N-[1-(methylsulphonyl)piperidin-4-yl]-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-amine in 7 ml of DCM. After cooling to 0° C. using an ice bath, 0.85 ml of TFA is added and the mixture is stirred at RT for 3 h. The mixture is concentrated under RP and the solid obtained is taken up in 24 ml of water and 1.1 ml of 0.75M aqueous ammonia solution. It is extracted with ethyl acetate, dried over MgSO4, filtered and concentrated under RP. The product is purified by flash chromatography on silica gel (15-40 μm), eluting with a DCM/MeOH mixture (95/05 by vol.). This gives 27 mg of [5-(2,6-difluorophenyl)-7-(fluoromethyl)-N-[1-(methylsulphonyl)piperidin-4-yl]-1H-pyrazolo[4,3-c]isoquinolin-3-amine (yellow solid). 1H NMR; 1.67 (m, 2 H) 2.11 (m, 2 H) 2.87 (s, 3 H) 2.90 (m, 2 H) 3.56 (m, 2 H) 3.80 (broad m, 1 H) 5.58 (d, J=47.2 Hz, 2 H) 6.05 (broad d, J=8.0 Hz, 1 H) 7.33 (t, J=77 Hz, 2 H) 7.57-7.73 (m, 2 H) 7.95 (broad d, J=8.3 Hz, 1 H) 8.45 (d, J=8.3 Hz, 1 H) 12.81 (s, 1 H).

reactant | 5-(2,6-difluorophenyl)-7-(fluoromethyl)-N-[1-(methylsulphonyl)piperidin-4-yl]-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-amine | FC1=C(C(=CC=C1)F)C1=NC=2C(C=3C=CC(=CC13)CF)=NN(C2NC2CCN(CC2)S(=O)(=O)C)COCC[Si](C)(C)C | C29H36F3N5O3SSi
reactant | TFA | 0.85 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
solvent | water | 24 ml | O | H2O
solvent | ammonia | 0.75M, 1.1 ml | N | H3N
product | 5-(2,6-difluorophenyl)-7-(fluoromethyl)-N-[1-(methylsulphonyl)piperidin-4-yl]-1H-pyrazolo[4,3-c]isoquinolin-3-amine | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)CF)NN=C2NC2CCN(CC2)S(=O)(=O)C | C23H22F3N5O2S
